US06809110B2
In analogy to the procedure described in example 14 b], [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester (example 7 a]) was reacted with 4-chloromethyl-2-(3,5-dimethoxy-phenyl)-thiazole (prepared from 3,5-dimethoxy-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in the presence of cesium carbonate and potassium iodide to yield [rac]-3-{4-[2-(3,5-dimethoxy-phenyl)-thiazol-4-ylmethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-3-{4-[2-(3,5-dimethoxy-phenyl)-thiazol-4-ylmethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid as light yellow solid.

reactant | [rac]-2-ethoxy-3-(3-fluoro-4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)F)OCC)=O | C13H17FO4
reactant | 4-chloromethyl-2-(3,5-dimethoxy-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC(=CC(=C1)OC)OC | C12H12ClNO2S
reactant | 3,5-dimethoxy-thiobenzamide | COC=1C=C(C(=S)N)C=C(C1)OC | C9H11NO2S
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-3-{4-[2-(3,5-dimethoxy-phenyl)-thiazol-4-ylmethoxy]-3-fluoro-phenyl}-2-ethoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC=1N=C(SC1)C1=CC(=CC(=C1)OC)OC)F)OCC)=O | C25H28FNO6S
